Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Decongestant 
Sinus / Potassium Sorbate
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with a history of metastatic thymic cancer s/p 
palliative chemo, stage I nonsmall cell lung cancer s/p 
Cyberknife therapy, asthma, HTN, insulin resistance presents 
with dyspnea. Patient was originally admitted to CCU, but is now 
transferred to MICU for management of suspected septic shock.  
Per the patient's record, the patient felt acute dyspnea 
yesterday evening. This episode was followed by acute chest 
discomfort located in the substernal region and was brought in 
by her son. Of note, the patient has had a recent admission for 
asthma/bronchiectasis and possible radiation pneumonitis. At 
that time she was on aztreonam and azithromycin (given 
penicillin allergy for coverage of pseudomonas) 
.  
In the ED, initial VS were HR 135 BP 155/92 O2 82% on RA. Her 
physical exam was consistent with pulmonary edema. EKG revealed 
tachycardia with aberancy (left bundle pattern) new compared to 
prior. Cardiology was consulted. Labs revealed elevated BNP at 
1381 (prior 792), trop 0.16, WBC of 13.8, normal UA. CXR 
revealed bilateral fluffly infiltrates, more dense infiltrates 
in the right upper lobe, bilateral effusions. She was given 
nitro drip, lasix, aspirin, morphine, eventually cefepime, 
vanco, methylprednisone. She was placed on CPAP however her 
symptoms did not improve. The decision was made to intubate. 
.
The ED resident had a difficult time intubating, with copious 
frothy bloody fluid from the ET tube. She had an episode of 
hypoxia while attempting to replace ET tube down to the ___. 
Eventually the patient was successfully intubated by anesthesia 
by a fiberoptic. She was given propofol during intubation and 
then sedated with fentanyl/midaz following. Initial ABG 
following intubation revealed respiratory acidosis (7.17 pCO2 65 
pO2 117 HCO3 25), however after increasing tidal volume and 
rate, ventilatory efforts have improved (pH 7.34 pCO2 32 pO2 68 
HCO3 18 with a Lactate of 5.3). 
.
There was concern for LBBB on EKG initially, but cardiology 
fellow felt this was more consistent with sinus rhythm w/ 
aberrancy. Cardiology fellow performed bedside echo which 
demonstrated globally decreased function with questionable wall 
motion abnormality of anterior and septal walls with trivial 
pericardial effusion and no impairment of the RV, new compared 
to normal echo in ___. Cardiology recommended heparin, however 
the patient has not had head imaging recently so heparin was 
held until Head CT could be performed. Prior to leaving for CT 
scanner the patient's blood pressure dropped. Despite pulmonary 
edema, the patient was given 2L IVF and started on levophed. A 
central femoral line was placed. The patient was also sent for 
Chest CT prior to arrival in the CCU. 
.
In CCU, patient started on vanc/cefepime/flagyl for pneumonia. 
She was started on vasopressin after maximal levophed.  She is 
transferred to MICU for further management of shock.
.  
Review of systems unable to be performed.  

 
Past Medical History:
1. Metastatic thymic carcinoma: s/p excision, XRT, pleurodesis 
for recurrent right-sided pleural effusion ___, and 5 cycles 
of palliative chemotherapy with carboplatin and etoposide. 
___ was her oncologist.  
2. NSCLC: Stage 1 (T1N0M0) disease; treated with cyberknife 
radiosurgery, last treatment ___. 
3. Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.  
4. Post nasal drip  
5. Impaired glucose tolerance. Exacerbated by recent steroids. 
Has been on metformin in the past but did not tolerate GI side 
effects. 
6. Hypertension  
7. GERD 
8. Histoy of C diff infection 
 
Social History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. 
 
Physical Exam:
Exam on Admission:
GENERAL: intubated and sedated,  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: unable to assess JVP, dilated vessels on anterior chest.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: Coarse breath sounds bilaterally, rhonchi bilaterally.  
ABDOMEN: distended, obese, Soft,  
EXTREMITIES: Cool extremities, No c/c/e. 
SKIN: multiple bruises on abdomen, arms, No stasis dermatitis, 
ulcers, scars, or xanthomas.  
PULSES: 1+/dopplerable pulses in lower extremies and upper 
extremities  
 
Pertinent Results:
Labs on Admission:
___ 01:15AM BLOOD WBC-13.8* RBC-4.70 Hgb-13.7 Hct-42.5 
MCV-91 MCH-29.1 MCHC-32.2 RDW-16.5* Plt ___
___ 01:15AM BLOOD Neuts-75.6* ___ Monos-1.5* 
Eos-0.2 Baso-0.4
___ 08:53PM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-3+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Burr-3+ Tear 
Dr-OCCASIONAL
___ 01:15AM BLOOD ___ PTT-17.8* ___
___ 01:15AM BLOOD Glucose-333* UreaN-37* Creat-1.3* Na-134 
K-5.3* Cl-93* HCO3-25 AnGap-21*
___ 01:15AM BLOOD ALT-57* AST-92* LD(LDH)-471* CK(CPK)-79 
AlkPhos-68 TotBili-0.4
___ 01:15AM BLOOD CK-MB-4 cTropnT-0.16* proBNP-1381*
___ 01:15AM BLOOD Albumin-4.0 Calcium-9.1 Phos-5.1*# Mg-2.1
___ 02:09AM BLOOD Type-ART Rates-/40 Tidal V-500 PEEP-8 
FiO2-100 pO2-180* pCO2-37 pH-7.35 calTCO2-21 Base XS--4 
AADO2-527 REQ O2-84 Intubat-NOT INTUBA Vent-SPONTANEOUS
___ 01:21AM BLOOD K-4.8
.
CXR: ___ - There are bilateral pleural effusions, right 
greater 
than left. Additionally, there is increased opacification within 
the right 
upper lobe, which is new since ___, as well as in 
bilateral 
lung bases which likely represent pneumonia. There is mild 
cardiomegaly and pulmonary edema. Sternotomy wires are midline 
and intact. 
.
CTA Chest: 1. No central pulmonary embolism. 
2. Post-radiation fibrotic changes within the right lung. 
Additionally, a 
small right-sided pleural effusion and trace left-sided pleural 
effusion is noted. Adjacent compressive atelectasis in bibasilar 
lungs is noted; 
additionally, new foci of consolidative process within bilateral 
lung bases may represent aspiration/pneumonia. 
3. No acute aortic pathology identified. 
.
CT Head: No evidence of acute intracranial process. MRI would be 
more sensitive for metastatic disease, if indicated. 

 
Brief Hospital Course:
___ yo female with a history of metastatic thymic cancer s/p 
palliative chemo, stage I nonsmall cell lung cancer s/p 
Cyberknife therapy, asthma, HTN, insulin resistance admitted to 
hypercarbic respiratory failure.  
.  
# Septic/Cardiogenic Shock: Strongly suspect infectious source 
of shock, given evidence of multifocal pneumonia on chest CT. 
However, concern for possible cardiac etiology as well, given 
depressed EF, though this could alternatively be due to 
myocardial stunning from sepsis. Placed on coverage for HCAP 
with meropenem/vancomycin/levaquin. Placed on coverage for PCP 
pneumonia with bactrim + steroids, and aspergillus with 
voriconazole given recent positive sputum culture and nodules on 
CT scan. Covered for Cdiff with both IV flagyl and PO vancomycin 
given history of Cdiff infection and current distended abdomen. 
The patient was started on levophed and vasopressin, as well as 
dobutamine for ionotropic effect. Cultures of sputum returned 
after the patient's passing and were (+) for MRSA, which was 
vancomycin-sensitive.
.
# Hypercarbic/Hypoxia respiratory failure: The patient has a 
history of asthma, however presentation is more consistent with 
pulmonary edema or infectious process (CT reveals bilateral 
infiltrates). She is also immunosuppressed as she has been on 
prednisone, bringing into question possible PCP ___. 
PAtient intubated and started on ARDS net protocol.
.
# Myocardial ischemia: Cardiac enzymes trending up, EF was 
___ and echo shows global hypofunction. High suspicion for 
demand ischemia/stunning in the setting of septic shock, now 
with component of cardiogenic shock as well. 
.
# Acute Renal failure: Acute increase in creatinine from 1.0 to 
2.3 with resulting hyperkalemia to 5.8. Likely in the setting of 
tissue hypoperfusion ___ shock.
.
# Anion Gap Metabolic Acidosis: Likely secondary to lactic 
acidosis and renal failure. 
.  
# Thymic cancer and NSCLC: s/p chemo for thymic cancer and 
Cyberknife for stage I NSCLC. PET from ___ shows likely 
metastatic disease in the mediastinum. The patient has had 
recurrent pleural effusions, s/p pleurodesis.  
.
A discussion was held with patient's family, and the decision 
was made to withdraw vasopressors and antimicrobial treatment. 
The patient expired at 17:51. The immediate cause of death was 
septic shock. The other causes of death included respiratory 
failure, thymic cancer, and non-small cell lung cancer. Family 
declined autopsy.

 
Medications on Admission:
albuterol sulfate Neb IH q3-4hrs as needed  
Ventolin HFA 90 mcg/Actuation HFA Aerosol Inhaler 2 puffs IH 
every ___ hours as needed  
alendronate 70 mg PO once a week.  
fexofenadine 180 mg PO once a day.  
fluticasone 220 mcg/Actuation Aerosol Sig: ___ puffs IH BID  
hydrochlorothiazide 25 mg PO once a day.  
lorazepam 1 mg PO BID as needed for anxiety/insomnia.  
montelukast 10 mg PO DAILY  
omeprazole 20 mg PO BID  
oxycodone-acetaminophen ___ mg as needed for pain.  
prednisone 20 mg Taper  
salmeterol 50 mcg/dose Inhalation Q12H  
tiotropium bromide 18 mcg Capsule DAILY  
valsartan 320 mg PO once a day.  
aspirin 81 mg PO once a day.  
calcium carbonate 600 mg (1,500 mg) PO once a day.  
ergocalciferol (vitamin D2) Oral  
multivitamin  
ferrous sulfate 325 mg PO once a day.  
Omega-3 Fish Oil Oral  
 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___